US07081454B2
4-Amino-3-methyl-5-nitro-benzonitrile:
A mixture of N-(4-cyano-2-methyl-6-nitro-phenyl)-2,2,2-trifluoro-acetamide (5 g, 18.3 mmol) and 2 M ammonia in methanol (80 mL) was heated to reflux for 14 h and then cooled to room temperature. After concentration in vacuo, the residue was purified by flash chromatography (20% EtOAc/hexane) to yield the title compound (3.24 g, 100%, ca 80% pure). 1H NMR (300 MHz, CDCl3) δ 8.40 (1H, s), 7.47 (1H, s), 6.6–6.8 (2H, broad s), 2.89 (3H, s).

reactant | N-(4-cyano-2-methyl-6-nitro-phenyl)-2,2,2-trifluoro-acetamide | 18.3 mmol, 5 g | C(#N)C1=CC(=C(C(=C1)[N+](=O)[O-])NC(C(F)(F)F)=O)C | C10H6F3N3O3
reactant | ammonia | 2 M | N | H3N
solvent | methanol | 80 mL | CO | CH4O
product | 4-Amino-3-methyl-5-nitro-benzonitrile | 3.24 g | NC1=C(C=C(C#N)C=C1[N+](=O)[O-])C | C8H7N3O2
